US08835633B2
4-Methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carbaldehyde
A vessel at room temperature was charged with formic acid (800 mL) and 4-methyl-2-(3-(1-methylpiperidin-4-yl)propylamino)pyrimidine-5-carbonitrile (100 g) and the resulting mixture stirred to yield a clear solution, then cooled to 10-15° C. Water (200 mL) was added and the resulting mixture cooled to −2 to 0° C. To the resulting mixture was then added RANEY® nickel (160 g) maintaining the temperature at −2 to 0° C. and then stirred at this temperature for 2-3 hours. The resulting mixture was then filtered to remove the RANEY® nickel and the filtercake washed with water (100 mL), The filtrate was cooled to 0-5° C. and then slowly treated with 50% sodium carbonate solution in water (3.0 L) to adjust the pH of the solution to pH˜10. Toluene (400 mL) was added and the resulting mixture stirred at room temperature for about 30 minutes, then allowed to settle for about 1 hour. The resulting layers were separated and the aqueous layer washed with toluene (400 mL×2). The combined toluene layer and washed were distilled at 55-60° C. to remove the toluene, to yield the title compound as an oily residue.

reactant | formic acid | 800 mL | C(=O)O | CH2O2
reactant | 4-methyl-2-(3-(1-methylpiperidin-4-yl)propylamino)pyrimidine-5-carbonitrile | 100 g | CC1=NC(=NC=C1C#N)NCCCC1CCN(CC1)C | C15H23N5
catalyst | RANEY® nickel | 160 g | [Ni] | Ni
solvent | Water | 200 mL | O | H2O
product | 4-Methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carbaldehyde | CC1=NC(=NC=C1C=O)NCCCC1CCN(CC1)C | C15H24N4O
